US07560558B2
Compound 171: 4-(4-Imidazol-1-yl-2-iodo-phenoxy)-6,7-dimethoxy-quinoline
4-(Imidazol-1-yl)-2-iodophenol (123 mg), 4-chloro-6,7-dimethoxyquinoline (288 mg), and 4-dimethylaminopyridine (158 mg) were suspended in o-dichlorobenzene (3 ml), and the suspension was stirred at 140° C. for 7.5 hr. The reaction solution was cooled to room temperature, water was then added thereto, and the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure. The residue was purified by thin layer chromatography using chloroform-methanol to give the title compound (92 mg, yield 45%).

reactant | 4-(Imidazol-1-yl)-2-iodophenol | 123 mg | N1(C=NC=C1)C1=CC(=C(C=C1)O)I | C9H7IN2O
reactant | 4-chloro-6,7-dimethoxyquinoline | 288 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 158 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 3 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-(4-Imidazol-1-yl-2-iodo-phenoxy)-6,7-dimethoxy-quinoline | 92 mg, yield 45% | N1(C=NC=C1)C1=CC(=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=C1)I | C20H16IN3O3
